US07354932B2
1,4-Butanediol (0.90 ml, 10.16 mmol) was added to a stirred suspension of NaH (246 mg, 10.25 mmol) in THF (20 ml) at room temperature and stirred for 30 minutes. Acetyl chloride (0.70 mL, 9.84 mmol) was then added to the thick white slurry. Following 45 minutes of stirring, the solution was diluted with diethyl ether (30 mL) and 10 w/v % K2CO3 (aq). The phases were separated and the organic phase washed with 10% K2CO3 (1×15 mL) and brine (1×15 mL). The combined aqueous phase was extracted with diethyl ether (1×30 mL). The organic phase was dried (MgSO4) and concentrated to afford 933 mg crude product as a colourless liquid. Purification by column chromatography (25 g silica, 2:1 hexanes:ethyl acetate) afforded 686 mg of acetic acid 4-hydroxy-butyl ester (51%). 1H NMR (CDCl3) δ 1.58-1.77 (m, 4H), 2.05 (s, 3H), 3.68 (t, 2H, J=6.1 Hz), 4.10 (t, 2H, J=6.4 Hz).

reactant | 1,4-Butanediol | 10.16 mmol, 0.90 ml | C(CCCO)O | C4H10O2
reactant | NaH | 10.25 mmol, 246 mg | [H-].[Na+]
reactant | Acetyl chloride | 9.84 mmol, 0.70 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | acetic acid 4-hydroxy-butyl ester | 686 mg, 51% | OCCCCOC(C)=O | C6H12O3
